US03953506
Preparation of 1,1-Dimethyl-3-(1,2,3,4-tetrahydro-1-naphthyl)-urea ##SPC18##
1,1-Diethyl-3-(1,2,3,4-tetrahydro-1-naphthyl)urea, melting point 86°C. to 87°C., is prepared by the above procedure by substituting diethylcarbamyl chloride for dimethylcarbamyl chloride.

reactant | 1,1-Diethyl-3-(1,2,3,4-tetrahydro-1-naphthyl)urea | C(C)N(C(=O)NC1CCCC2=CC=CC=C12)CC | C15H22N2O
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
product | 1,1-Dimethyl-3-(1,2,3,4-tetrahydro-1-naphthyl)-urea | CN(C(=O)NC1CCCC2=CC=CC=C12)C | C13H18N2O
